US05036079
1-[4-(Diethoxymethyl)phenyl]ethanol
4-(Diethoxymethyl)benzaldehyde (104 g, 0.5 mol) was dissolved in 300 ml of ether and the resulting solution cooled to -75° C. in an acetone-dry ice bath. With vigorous stirring, methyllithium (390 mL of 1.4M in ether, 0.55 mol) was added at a rate which maintained the temperature at less than -60° C. The reaction mixture was allowed to warm to room temperature, stirred for two hours at that temperature, poured into 500 mL of ice and water, stirred 10 minutes and the layers separated. The aqueous layer was extracted with 500 mL ether. The organic layers were combined, washed with 500 mL each of H2O and then brine dried (MgSO4) and stripped in vacuo to yield 110-111.5 (98-100%) of present title product as a viscous, light yellow oil.

reactant | 4-(Diethoxymethyl)benzaldehyde | 0.5 mol, 104 g | C(C)OC(C1=CC=C(C=O)C=C1)OCC | C12H16O3
reactant | methyllithium | 0.55 mol, 1.4M, 390 mL | C[Li]
reactant | water | O | H2O
solvent | ether | 300 ml | CCOCC | C4H10O
product | 1-[4-(Diethoxymethyl)phenyl]ethanol | C(C)OC(C1=CC=C(C=C1)C(C)O)OCC | C13H20O3
